US03949076
A solution of 1.86 g. of 1-(2-aminoethyl)imidazole and 4.0 g. of 9-acetoxyxanthene dissolved in 100 ml. of dry benzene was refluxed for 24 hours. After cooling the solution was washed with 5% aqueous sodium carbonate solution and water, then dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was redissolved in ether and deposited white crystals which were filtered and recrystallized from benzene-hexane to give N-[2-(1-imidazolyl)ethyl]-9-xanthenylamine, m.p. 90°-92° C.

reactant | 1-(2-aminoethyl)imidazole | NCCN1C=NC=C1 | C5H9N3
reactant | 9-acetoxyxanthene | C(C)(=O)OC1C2=CC=CC=C2OC=2C=CC=CC12 | C15H12O3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-[2-(1-imidazolyl)ethyl]-9-xanthenylamine | N1(C=NC=C1)CCNC1C2=CC=CC=C2OC=2C=CC=CC12 | C18H17N3O
